US04480009
Preparation of bis-(m-aminophenoxybutyl)tetramethyldisiloxane using macrocyclic crown ether as phase transfer catalyst
The process of Example XIX was again practiced except that 59.95 parts of m-aminophenol was substituted for the p-aminothiophenol and 78.9 parts of Bis-(chloropropyl)tetramethyldisiloxane was substituted for the Bis-(chlorobutyl)tetramethyldisiloxane, and the phase transfer catalyst was 3 grams of 18 crown -6 ether. The end product was recovered at a temperature within the range of from 245° C. to 260° C. at from 0.5 mm to 2.0 mm of mercury. The recovered product was identified as Bis-(m-aminophenoxypropyl)tetramethyldisiloxane. The recovered product material was a pale yellow liquid which did not solidify upon standing in the cold at 0° C. for 3 days. Its purity, as determined by titration with perchloric acid, was better than 99%.

reactant | m-aminophenol | NC=1C=C(C=CC1)O | C6H7NO
reactant | p-aminothiophenol | NC1=CC=C(C=C1)S | C6H7NS
reactant | Bis-(chloropropyl)tetramethyldisiloxane | ClCCC[Si](O[Si](C)(C)C)(C)CCCCl | C10H24Cl2OSi2
reactant | Bis-(chlorobutyl)tetramethyldisiloxane | ClCCCC[Si](O[Si](C)(C)C)(C)CCCCCl | C12H28Cl2OSi2
solvent | ether | CCOCC | C4H10O
product | bis-(m-aminophenoxybutyl)tetramethyldisiloxane | NC=1C=C(OCCCC[Si](O[Si](C)(C)C)(C)CCCCOC2=CC(=CC=C2)N)C=CC1 | C24H40N2O3Si2
